US09416141B2
Preparation of 6-ethyl-2-({[4-(trifluoromethyl)phenyl]carbamoyl}amino)-4H,5H,6H,7H-thieno[2,3-c]pyridine-3-carboxamide
A vigorously stirred solution of 4-trifluoromethyl aniline (161 mg, 1.0 mmol) in DCM (3 mL) at room temperature was treated with aq. NaHCO3 (3 mL) and triphosgene (98 mg, 0.33 mmol) and the reaction mixture was vigorously stirred at room temperature for 45 min. 2-Amino-6-ethyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine-3-carboxamide (225 mg, 1.0 mmol) was next added followed by THF and the reaction mixture was stirred at room temperature for 8 h. The solvent was then removed under vacuo and the resultant crude product was diluted with methanol and the insoluble solid was filtered off. Upon evaporation of MeOH, the crude oil was taken up in DCM and washed with water (×2), and the aqueous layer was back extracted with DCM. All organics were combined, dried (Na2SO4) and concentrated using a rotary evaporator. The crude product was purified by flash chromatography, Isolera system (SiO2 gel as stationary phase, 12 g HP column, dry loading) using DCM-DCM/MeOH (0%-10% MeOH in DCM) to afford the title compound as a brown solid (128 mg, 31% yield). MS (M+H) 413.

reactant | 4-trifluoromethyl aniline | 1.0 mmol, 161 mg | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | NaHCO3 | 3 mL | C(=O)(O)[O-].[Na+]
reactant | triphosgene | 0.33 mmol, 98 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-Amino-6-ethyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine-3-carboxamide | 1.0 mmol, 225 mg | NC1=C(C2=C(CN(CC2)CC)S1)C(=O)N | C10H15N3OS
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | 6-ethyl-2-({[4-(trifluoromethyl)phenyl]carbamoyl}amino)-4H,5H,6H,7H-thieno[2,3-c]pyridine-3-carboxamide | 128 mg, 31% yield | C(C)N1CC2=C(CC1)C(=C(S2)NC(NC2=CC=C(C=C2)C(F)(F)F)=O)C(=O)N | C18H19F3N4O2S
